US09108948B2
1-[2-(4-Bromo-phenyl)-(1R,2R)-cyclopropylmethyl]-(2R)-2-methyl-pyrrolidine
A solution of (1R,2R)-2-(4-bromophenyl)cyclopropanecarbaldehyde (the product of Example 3B, 600 mg, 2.67 mmol) and (R)-2-methylpyrrolidine tartaric acid salt (0.82 g, 3.47 mmol) in ethanol (30 mL) was treated with sodium cyanoborohydride (252 mg 4 mmol). The mixture was stirred at room temperature for two hours. The mixture was quenched with HCl (1N) and then basified to pH=10-12 with NaOH (10%) and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure and the residue was purified on silica gel with 1% to 2% methanol (containing 10% concentrated NH4OH) in dichloromethane to provide the title compound. 1H NMR (300 MHz, CD3OD): δ 0.89 (m, 1H), 0.98 (m, 1H), 1.14 (d, J=6 Hz, 2H), 1.19 (m, 1H), 1.43 (m, 1H), 1.75 (m, 3H), 1.95 (m, 2H), 2.30 (q, J=9 Hz, 1H), 2.37 (m, 1H), 3.14 (dd, J=12 Hz, J=6 Hz, 1H), 3.22 (m, 1H), 7.00 (d, J=9 Hz, 2H), 7.36 (d, J=9 Hz, 2H). MS (DCl—NH3) m/z 294 (M+H)+.

reactant | (1R,2R)-2-(4-bromophenyl)cyclopropanecarbaldehyde | BrC1=CC=C(C=C1)[C@H]1[C@@H](C1)C=O | C10H9BrO
reactant | (R)-2-methylpyrrolidine tartaric acid salt | 3.47 mmol, 0.82 g | C(C(O)C(O)C(=O)O)(=O)O.C[C@H]1NCCC1
reactant | sodium cyanoborohydride | 4 mmol, 252 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-[2-(4-Bromo-phenyl)-(1R,2R)-cyclopropylmethyl]-(2R)-2-methyl-pyrrolidine | BrC1=CC=C(C=C1)[C@H]1[C@@H](C1)CN1[C@@H](CCC1)C | C15H20BrN
